US07910592B2
To a solution of methyl 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate (102 mg, 0.146 mmol) in 1,4-dioxane (3 mL) was added a solution of lithium hydroxide monohydrate (27 mg, 0.643 mmol) in water (1.8 mL). The reaction was stirred for 3 days. The crude mixture was acidified with HCl (aq, 1N, 1 mL). The crude product was purified by reverse-phase prep-HPLC (Kromasil 100-5C18, 100×21.1 mm) eluting with a MeCN (0.1% TFA, v/v)/H10 (0.1% TFA, v/v) gradient mixture. Two peaks were recorded in the prep-LC chromatogram representing the desired acid (60 A %, the faster eluting peak) and the starting ester. Corresponding fractions were pooled and evaporated in vacuo to aqueous mixtures. The resulting mixtures were extracted with EtOAc. The separated organic phases were back washed with water, separated, dried over Na2SO4, filtered and evaporated to afford 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylic acid (59.27 mg) as a glass and the recovered starting ester. LCMS calc.=686.22; found=687.44 (M+1)+. 1H NMR signals are doubled because of atropoisomerism. 1H NMR (CDCl3, 500 MHz) 8.13 (d, J=8 Hz, 1H), 8.02-7.95 (m, 1H), 7.94-7.88 (m, 1H), 7.85 (s, 1H), 7.70-7.62 (m, 3H), 7.49 (d, J=8.5 Hz, 1H), 7.38 (s, 0.5H), 7.35-7.28 (m, 1H), 7.20-7.10 (m, 1.5H), 5.67 (d, J=7 Hz, 0.7H), 5.58 (d, J=8.0 Hz, 0.3H), 5.05 (d, J=16 Hz, 0.3H), 4.75 (d, J=16 Hz, 0.7H), 4.67 (d, J=16 Hz, 0.7H), 4.60 (d, J=16 Hz, 0.3H), 4.40-4.32 (m, 1H), 3.92 (s, 0.9H), 3.88 (s, 2.1H), 3.74-3.60 (m, 1H), 2.39 (s, 2.1H), 2.35 (s, 0.9H), 1.46 (s, 3H), 1.45 (s, 3H), 0.73 (d, J=6.5 Hz, 2.1H), 0.65 (d, J=5.5 Hz, 0.9H).

reactant | methyl 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate | 0.146 mmol, 102 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C)C(C)C)C)(F)F | C37H34F6N2O5
reactant | lithium hydroxide monohydrate | 0.643 mmol, 27 mg | O.[OH-].[Li+]
reactant | HCl | 1N, 1 mL | Cl | ClH
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.8 mL | O | H2O
product | 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylic acid | 59.27 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)O)C)C(C)C)C)(F)F | C36H32F6N2O5
